US06638951B1
n-Butyl 4-tert-butoxycarbonylamino-1-piperidineacetate
A suspension of 1.00 g of 4-(tert-butoxycarbonylamino)piperidine and 0.72 ml of triethylamine in 6 ml of dry N,N-dimethylformamide was stirred at an inner temperature of 50° C., and added dropwise with a solution of 0.79 g of n-butyl chloroacetate in 4 ml of dry N,N-dimethylformamide. Stirring was continued at the same temperature for 1 hour. Then, the reaction mixture was added with water, and the precipitated crystals were collected by filtration. The crystals were washed successively with water and n-heptane to obtain 1.46 g of colorless scales (mp: 115.5-116.5° C.).

reactant | 4-(tert-butoxycarbonylamino)piperidine | 1.00 g | C(C)(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | triethylamine | 0.72 ml | C(C)N(CC)CC | C6H15N
reactant | n-butyl chloroacetate | 0.79 g | ClCC(=O)OCCCC | C6H11ClO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | n-Butyl 4-tert-butoxycarbonylamino-1-piperidineacetate | C(C)(C)(C)OC(=O)NC1CCN(CC1)CC(=O)OCCCC | C16H30N2O4
